US09278950B2
Step 3. 2-Amino-4-bromo-5-fluorobenzaldehyde
To a mixture of 4-bromo-5-fluoro-2-nitrobenzaldehyde (2.219 g, 8.947 mmol) and iron powder (2.535 g, 45.39 mmol), EtOH (30.0 mL) was added, followed by AcOH (10.0 mL) and water (5.0 mL). The reaction mixture was stirred at room temperature for 2 h, then concentrated under reduced pressure. EtOAc (150 mL) was added to the resulting residue. The mixture formed was filtered through a pad of diatomaceous earth. The diatomaceous earth pad was washed with 10 wt % aq. K3PO4 (150 mL) and EtOAc (100 mL). The organic layer was separated and then was washed with brine (150 mL), dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was purified by flash chromatography on silica gel (0-30% EtOAc in hexanes) to give the sub-title compound as a yellow solid (1.518 g, 78%). LCMS calc. for C7H6BrFNO (M+H)+: m/z=218.0. found 217.9.

reactant | 4-bromo-5-fluoro-2-nitrobenzaldehyde | 8.947 mmol, 2.219 g | BrC1=CC(=C(C=O)C=C1F)[N+](=O)[O-] | C7H3BrFNO3
reactant | EtOH | 30.0 mL | CCO | C2H6O
reactant | AcOH | 10.0 mL | CC(=O)O | C2H4O2
catalyst | iron | 45.39 mmol, 2.535 g | [Fe] | Fe
solvent | water | 5.0 mL | O | H2O
product | 2-Amino-4-bromo-5-fluorobenzaldehyde | 1.518 g, 78% | NC1=C(C=O)C=C(C(=C1)Br)F | C7H5BrFNO
